* c:\spb_data\esim-workspace\full_adder\full_adder.cir
.lib "sky130_fd_pr/models/sky130.lib.spice" tt


xM1  vdd vin_a Net-_M1-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM7  Net-_M1-Pad3_ vin_b Net-_M14-Pad2_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM2  vdd vin_a Net-_M2-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM3  vdd vin_b Net-_M2-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM8  Net-_M2-Pad3_ vin_c Net-_M14-Pad2_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM4  vdd vin_c Net-_M4-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM5  vdd vin_a Net-_M4-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM6  vdd vin_b Net-_M4-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM9  Net-_M4-Pad3_ Net-_M14-Pad2_ Net-_M12-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM21  Net-_M14-Pad2_ vin_b Net-_M15-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM15  Net-_M15-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM22  Net-_M14-Pad2_ vin_c Net-_M16-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM16  Net-_M16-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM17  Net-_M16-Pad1_ vin_b GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM23  Net-_M12-Pad3_ Net-_M14-Pad2_ Net-_M18-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM18  Net-_M18-Pad1_ vin_c GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM19  Net-_M18-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM20  Net-_M18-Pad1_ vin_b GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM10  vdd vin_a Net-_M10-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM11  Net-_M10-Pad3_ vin_b Net-_M11-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM12  Net-_M11-Pad3_ vin_c Net-_M12-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM26  Net-_M12-Pad3_ vin_c Net-_M25-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM25  Net-_M25-Pad1_ vin_b Net-_M24-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM24  Net-_M24-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM13  vdd Net-_M12-Pad3_ sum vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM28  sum Net-_M12-Pad3_ GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM14  vdd Net-_M14-Pad2_ carry vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5			
xM27  carry Net-_M14-Pad2_ GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		

Vdd vdd 0 3.3
Vd0 vin_a 0 pulse(0 2.2 0us 0s 0s 20us 40us)
Vd1 vin_b 0 pulse(0 2.2 5us 0s 0s 20us 40us)
Vd2 vin_c 0 pulse(0 2.2 15us 0s 0s 20us 40us)

.tran 0.1us 60us

.control
run

plot V(carry) V(sum) +4 V(vin_c) +8  V(vin_b) +12 V(vin_a)+15

.endc

.end